US04482762
A Grignard reagent [29.1 g (1.2 g atoms) of magnesium in 300 ml of ether and 164 g (1.2 mol) of butyl bromide in 500 ml of ether] is reacted with 98.15 g (1 mol) of 2-methyl-2-pentenal in 200 ml of ether in a manner analogous to Example 5. Fractional distillation of the crude product (195.2 g) over a 20 cm Widmer column gives 124.2 g (79.5%) of olfactorily good 4-methyl-3-nonen-5-ol of boiling point 89°-90° C./12 mm Hg.

reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | butyl bromide | 1.2 mol | C(CCC)Br | C4H9Br
reactant | 2-methyl-2-pentenal | 1 mol, 98.15 g | CC(C=O)=CCC | C6H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-methyl-3-nonen-5-ol | CC(=CCC)C(CCCC)O | C10H20O
